US08349840B2
After 7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-2-methyl-3,4-dihydro-2H-isoquinolin-1-one was made into an ethanol solution, 1N hydrochloric acid ethanol solution was added thereto, precipitated crystals were separated by filtration, recrystallized from ethanol and thereby 7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-2-methyl-3,4-dihydro-2H-isoquinolin-1-one hydrochloride was obtained in the form of a white powder.

reactant | 7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-2-methyl-3,4-dihydro-2H-isoquinolin-1-one | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=CC=C1CCN(C(C1=C2)=O)C | C25H29N3O2S
reactant | hydrochloric acid ethanol | 1N | C(C)O.Cl
solvent | ethanol | C(C)O | C2H6O
product | 7-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-2-methyl-3,4-dihydro-2H-isoquinolin-1-one hydrochloride | Cl.S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=CC=C1CCN(C(C1=C2)=O)C | InChI=1S/C25H29N3O2S.ClH/c1-26-11-8-19-6-7-20(18-22(19)25(26)29)30-16-3-10-27-12-14-28(15-13-27)23-4-2-5-24-21(23)9-17-31-24;/h2,4-7,9,17-18H,3,8,10-16H2,1H3;1H
